US08193178B2
Step A: 2-Chloro-cyclohex-1-enecarbonitrile
To a stirring solution of POCl3 (15.20 mL, 163 mmol) at 0° C. was added DMF (13.40 mL, 173 mmol) drop-wise. Monitoring internal temperature, cyclohexanone (10.60 mL, 102 mmol) was slowly added, keeping the temperature between 35 and 40° C. Upon complete addition, the reaction was heated to 50° C. and hydroxylamine hydrochloride (40 g, 576 mmol) was added in eight portions, cooling when necessary to control the exothermic reaction. Upon completing this addition, ice was added to the reaction, followed by water (400 mL), and the mixture resumed stirring for 1 h. Filtration afforded the desired product as a brown solid (8.8 g). Some substrates may require an aqueous work-up/extraction procedure if water solubility is too high. EtOAc is generally a good solvent for this extraction. MS: No signal. 1H NMR (400 MHz, CDCl3 δ ppm 2.47-2.36 (m, 2H), 2.34-2.25 (m, 2H), 1.78-1.67 (m, 1H), 1.67-1.58 (m, 1H).

reactant | POCl3 | 163 mmol, 15.20 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 173 mmol, 13.40 mL | CN(C)C=O | C3H7NO
reactant | cyclohexanone | 102 mmol, 10.60 mL | C1(CCCCC1)=O | C6H10O
reactant | hydroxylamine hydrochloride | 576 mmol, 40 g | Cl.NO
solvent | water | 400 mL | O | H2O
product | 2-Chloro-cyclohex-1-enecarbonitrile | 8.8 g | ClC1=C(CCCC1)C#N | C7H8ClN
